US06469004B1
Step j: Preparation of 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzooxazole-5-carboxylic acid
To a stirring solution comprised of methyl 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzooxazole-5-carboxylate (0.024 M) in tetrahydrofuran is added solid potassium trimethylsilanolate (5.14 equiv.). The reaction mixture is stirred at ambient temperature under argon for 16 hours. An additional equivalent of potassium trimethylsilanolate is added and the mixture stirred 30 minutes. The reaction mixture is concentrated in vacuo to give a residue that is then taken up into 1:1 (v/v)ethyl acetate-diethyl ether. The organic phase is washed with dilute aqueous hydrochloric acid, water, and brine, is dried (MgSO4), is concentrated in vacuo, and chased with chloroform to give a crude product. Recrystallization from an appropriate solvent like ethanol gives the purified desired product. cl Example 6

reactant | methyl 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzooxazole-5-carboxylate | 0.024 M | FC1=C(C(=CC=2N=COC21)C(=O)OC)NC2=C(C=C(C=C2)I)C | C16H12FIN2O3
reactant | potassium trimethylsilanolate | 5.14 equiv. | C[Si]([O-])(C)C.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-fluoro-6-(4-iodo-2-methyl-phenylamino)-1H-benzooxazole-5-carboxylic acid | FC1=C(C(=CC=2N=COC21)C(=O)O)NC2=C(C=C(C=C2)I)C | C15H10FIN2O3
